US07425568B2
2-(3,5-Difluorophenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 500 mg of 2-(3,5-difluorophenyl)chroman-4,6-diol. 1H NMR (300 MHz, d6-DMSO) δ: 8.82 (s, 1H), 7.20-7.14 (m, 3H), 6.68 (d, 1H, J 8.6 Hz), 6.53 (d, 1H, J 2.9 Hz), 6.50 (dd, 1H, J 8.6, 2.9 Hz), 5.05 (dd, 1H, J 9.8, 2.2 Hz), 2.88 (ddd, 1H, J −16.7, 10.8, 5.9 Hz), 2.62 (ddd, 1H, J −16.7, 8.9, 5.0 Hz), 2.15 (m, 1H), 1.93 (m, 1H).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(3,5-difluorophenyl)chroman-4,6-diol | 500 mg | FC=1C=C(C=C(C1)F)C1OC2=CC=C(C=C2C(C1)O)O | C15H12F2O3
product | 2-(3,5-Difluorophenyl)chroman-6-ol | FC=1C=C(C=C(C1)F)C1OC2=CC=C(C=C2CC1)O | C15H12F2O2
